US05658858
Hydroxylamine hydrochloride (0.53 g) and sodium acetate (0.63 g) were added to a stirred solution of 1-[3,4-dichloro-2-(N-ethyl-N-methoxycarbonylamino)phenyl]-3-cyclopropyl-2-ethoxymethylenepropane-1,3-dione (2.88 g) in ethanol. After 0.5 hours water was added, and the mixture extracted (dichloromethane), dried (magnesium sulphate) and evaporated to dryness. Purification by chromatography gave 4-[3,4-dichloro-2-(N-ethyl-N-methoxycarbonylamino)benzoyl]-5-cyclopropylisoxazole (compound number 2, 1.09 g), m.p. 76°-78° C. as a white solid.

reactant | Hydroxylamine hydrochloride | 0.53 g | Cl.NO
reactant | sodium acetate | 0.63 g | C(C)(=O)[O-].[Na+]
reactant | 1-[3,4-dichloro-2-(N-ethyl-N-methoxycarbonylamino)phenyl]-3-cyclopropyl-2-ethoxymethylenepropane-1,3-dione | 2.88 g | ClC=1C(=C(C=CC1Cl)C(C(C(=O)C1CC1)=COCC)=O)N(C(=O)OC)CC | C19H21Cl2NO5
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-[3,4-dichloro-2-(N-ethyl-N-methoxycarbonylamino)benzoyl]-5-cyclopropylisoxazole | 1.09 g | ClC=1C(=C(C(=O)C=2C=NOC2C2CC2)C=CC1Cl)N(C(=O)OC)CC | C17H16Cl2N2O4
